US05587161
A solution of the intermediate dibenzyl 4-[N,N-bis(2-chloroethyl)amino]-phenylcarbamoyl-L-glutamate (1.138 g) in DMF (15 ml) was hydrogenated over 10% Pd/C for 16 hours. After filtration and evaporation in vacuo, the residue was dissolved in CHCl3 (20 ml). After 18 hours the crystalline precipitate was filtered off and dried in vacuo to obtain 4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl-L-glutamic acid. Yield, 730 mg (93%). After recrystallisation from acetone/CHCl3 microscopic rods formed m.p. 116°-118° C. NMR (CD3COCD3): δ8.0(s)1H; 7.2(d)2H; 6.6(d)2H; 6.2(d)2H NH; 4.4(m)1H; 3.6(m)8H; 2.5-1.9(m)4H.

reactant | dibenzyl 4-[N,N-bis(2-chloroethyl)amino]-phenylcarbamoyl-L-glutamate | 1.138 g | ClCCN(CCCl)C(C[C@H](NC(NC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C30H33Cl2N3O5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 4-[N,N-bis-(2-chloroethyl)amino]phenylcarbamoyl-L-glutamic acid | ClCCN(CCCl)C(C[C@H](NC(NC1=CC=CC=C1)=O)C(=O)O)C(=O)O | C16H21Cl2N3O5
